US06420426B1
Step 1: N-(4-Bromo-2-fluoro-benzyl)-2-methoxy-4-methylsulfanyl-benzamide:
A solution of 2-methoxy-4-(methylthio)benzoic acid (5.0 g, 25.2 mmol) in dichloromethane (50 mL) was cooled to 0° C. and treated with oxalyl chloride (6.6 mL, 75.6 mmol). A drop of N,N-dimethylformamide was added and the reaction was heated to a gentle reflux for 2 h. After cooling to room temperature, the solution was concentrated in vacuo to remove the excess oxalyl chloride, diluted with dichloromethane (53 mL) and cooled to 0° C. The resulting solution was treated with N,N-diisopropylethylamine (11.6 mL, 67 mmol) and 4-bromo-2-fluorobenzylamine hydrochloride (9.7 g, 40.2 mmol). The resulting solution was stirred at room temperature overnight, concentrated in vacuo, diluted with ethyl acetate and successively washed with 2 N HCl and saturated NaCl. The organic layer was dried over MgSO4, filtered and concentrated. Rf 0.4 (40% ethyl acetate in heptane); 1H NMR (DMSO-d6 300 MHz) δ 8.63 (t, J=6 Hz, 1H), 7.70 (d, J=8.1 Hz, 1H), 7.50 (dd, J1=9.6 Hz, J2=2.1 Hz, 1H), 7.38 (dd, J1=8.4 Hz, J2=2.0 Hz , 1H), 7.28 (t, J=8.4 Hz, 1H), 6.94 (br s , 1H), 6.89 (dd, J1=5.7 Hz, J2=1.7 Hz, 1H), 4.46 (d, J=6 Hz, 2 H), 3.91 (s, 3H), 2.51 (s, 3H).

reactant | 2-methoxy-4-(methylthio)benzoic acid | 25.2 mmol, 5.0 g | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | oxalyl chloride | 75.6 mmol, 6.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 67 mmol, 11.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-2-fluorobenzylamine hydrochloride | 40.2 mmol, 9.7 g | Cl.BrC1=CC(=C(CN)C=C1)F
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-Bromo-2-fluoro-benzyl)-2-methoxy-4-methylsulfanyl-benzamide | BrC1=CC(=C(CNC(C2=C(C=C(C=C2)SC)OC)=O)C=C1)F | C16H15BrFNO2S
